US07192968B2
(1S,2R,4S)-N1-[(5-Fluoroindol-2-yl)carbonyl]-4-(N,N-dimethylcarbamoyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
(1S,2R,4S)-4-Ethoxycarbonyl-N1-[(5-fluoroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine was hydrolyzed and then subjected to a condensation reaction with dimethylamine hydrochloride in a similar manner to Example 157 to obtain the title compound.

reactant | (1S,2R,4S)-4-Ethoxycarbonyl-N1-[(5-fluoroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine | C(C)OC(=O)[C@@H]1C[C@H]([C@H](CC1)NC(=O)C=1NC2=CC=C(C=C2C1)F)NC(=O)C=1SC=2CN(CCC2N1)C | C26H30FN5O4S
reactant | dimethylamine hydrochloride | Cl.CNC
product | (1S,2R,4S)-N1-[(5-Fluoroindol-2-yl)carbonyl]-4-(N,N-dimethylcarbamoyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | Cl.FC=1C=C2C=C(NC2=CC1)C(=O)N[C@@H]1[C@@H](C[C@H](CC1)C(N(C)C)=O)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C26H31FN6O3S.ClH/c1-32(2)26(36)14-4-6-18(29-23(34)21-12-15-10-16(27)5-7-17(15)28-21)20(11-14)30-24(35)25-31-19-8-9-33(3)13-22(19)37-25;/h5,7,10,12,14,18,20,28H,4,6,8-9,11,13H2,1-3H3,(H,29,34)(H,30,35);1H/t14-,18-,20+;/m0./s1
